US04385176
2,2,2-Trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride (3.0 g) was suspended in dried dichloromethane (50 ml) and then dissolved by adding triethylamine (0.72 g) and dimethylaniline (1.9 g) under cooling at -15° C. To a mixture was dropwise added a solution of phenylthioacetyl chloride (2.2 g) in dried dichloromethane (10 ml) under stirring, and the mixture was stirred for 1.5 hours at the same temperature. After the reaction, the reaction mixture was in turn washed with 5% hydrochloric acid, water, 5% sodium bicarbonate aqueous solution and water and then dried. After the solvent was distilled off, ether was added to the residue, after which the precipitated crystals were collected by filtration and dried to give 2,2,2-trichloroethyl 2-methyl-7-(2-phenylthioacetamido)-3-cephem-4-carboxylate (3.4 g), mp 140° to 142° C.

reactant | 2,2,2-Trichloroethyl 2-methyl-7-amino-3-cephem-4-carboxylate hydrochloride | 3.0 g | Cl.CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2N)=O
reactant | triethylamine | 0.72 g | C(C)N(CC)CC | C6H15N
reactant | dimethylaniline | 1.9 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | phenylthioacetyl chloride | 2.2 g | C1(=CC=CC=C1)CC(=S)Cl | C8H7ClS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2,2,2-trichloroethyl 2-methyl-7-(2-phenylthioacetamido)-3-cephem-4-carboxylate | 3.4 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=S)=O | C18H17Cl3N2O3S2
